US04022801
A solution of 12 g of ethyl-(4-chloro-phenyl-4-ethoxycarbonyl-pyrazole in 150 ml of tetrahydrofuran is cooled in an ice bath. Then 25 ml of a 1 molar solution of aluminum hydride triethylamine complex in benzene is added dropwise. After the addition, the ice bath is removed and the gelatinous mixture stirred at room temperature for 2 1/2 hours. Excess reagent is then destroyed by the dropwise addition of water followed by 30 ml of an aqueous 2N solution of sodium hydroxide. The layers are separated, the aqueous phase reextracted with ethyl acetate and the combined organic layers dried over anhydrous sodium sulfate. The recrystallization of the solid residue from hot ethyl acetate gives the 3-(4-chloro-phenyl)-4-hyroxymethyl-pyrazole, m.p. 149°-150°.

reactant | 4-chloro-phenyl-4-ethoxycarbonyl-pyrazole | ClC1=CC=C(C=C1)C1=NNC=C1C(=O)OCC | C12H11ClN2O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(4-chloro-phenyl)-4-hyroxymethyl-pyrazole | ClC1=CC=C(C=C1)C1=NNC=C1CO | C10H9ClN2O
